US06797718B2
A sealed tube containing anhydrous ammonium acetate (11.4 g) and 2,6,7-trimethyl-4-phenoxy-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]pyridine (1.14 g) from Part C was heated to 150° C. for 40 hours. The reaction was allowed to cool to room temperature. The resulting reaction mixture was then dissolved in ethyl acetate and washed with a saturated aqueous solution of sodium bicarbonate. The basic layer was washed twice with ethyl acetate. The organic layers were combined, dried with magnesium sulfate, and the solvents were removed under reduced pressure. The resulting orange solid was passed through a silica gel column using 94/6dichloromethane/methanol as the eluant. Because NMR analysis indicated that the white solid contained ammonium acetate, the product was dissolved in chloroform and washed with 25% aqueous sodium hydroxide. The resulting basic aqueous layer was extracted twice with chloroform. The organic layers were combined, washed with water, dried with magnesium sulfate, and concentrated under reduced pressure. The resulting white solid was dried under vacuum at 60° C. for 24hours to provide 2,6,7-trimethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]pyridin-4-amine, m.p. 176.0-177.0° C.

reactant | ammonium acetate | 11.4 g | C(C)(=O)[O-].[NH4+]
reactant | 2,6,7-trimethyl-4-phenoxy-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]pyridine | 1.14 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCOC1=CC=CC=C1 | C23H23N3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,6,7-trimethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]pyridin-4-amine | CC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCOC1=CC=CC=C1 | C17H20N4O
